US08791161B2
4-chloro-N-[5-chloro-2-(methylthio)phenyl]-3-(trifluoromethyl)benzenesulfonamide
Following General Procedure B, the title compound was prepared from 5-chloro-2-(methylthio)aniline and 4-chloro-3-(trifluoromethyl)benzene-1-sulfonyl chloride.

reactant | 5-chloro-2-(methylthio)aniline | ClC=1C=CC(=C(N)C1)SC | C7H8ClNS
reactant | 4-chloro-3-(trifluoromethyl)benzene-1-sulfonyl chloride | ClC1=C(C=C(C=C1)S(=O)(=O)Cl)C(F)(F)F | C7H3Cl2F3O2S
product | 4-chloro-N-[5-chloro-2-(methylthio)phenyl]-3-(trifluoromethyl)benzenesulfonamide | ClC1=C(C=C(C=C1)S(=O)(=O)NC1=C(C=CC(=C1)Cl)SC)C(F)(F)F | C14H10Cl2F3NO2S2
